US09029549B2
4-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride (VI-1)
Under argon and at 0° C., a 2-molar solution of hydrogen chloride in diethyl ether (370 ml) is added dropwise to a solution of tert-butyl 4-[4-(ethoxycarbonyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (25.0 g) in diethyl ether (200 ml). The reaction mixture is stirred at 0° C. and then slowly warmed to room temperature. After stirring overnight, the solvent and excess hydrogen chloride are removed. This gives 4-[4-(ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride (20.0 g, 98%)

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-[4-(ethoxycarbonyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 25.0 g | C(C)OC(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O4S
solvent | diethyl ether | 370 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 4-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride | [Cl-].C(C)OC(=O)C=1N=C(SC1)C1CC[NH2+]CC1 | InChI=1S/C11H16N2O2S.ClH/c1-2-15-11(14)9-7-16-10(13-9)8-3-5-12-6-4-8;/h7-8,12H,2-6H2,1H3;1H
